US06667312B2
Using the general method of Example 1 Part D, N4-(4-chlorobutyl)quinoline-3,4-diamine (˜35.75 mmol) was cyclized using triethyl orthopropionate (7.56 g, 42.9 mmol) in the presence of pyridine hydrochloride (0.41 g). The crude product was purified by chromatography (silica gel eluting with 95/5 dichloromethane/methanol) to provide 7.5 g of 1-(4-chlorobutyl)-2-ethyl-1H-imidazo[4,5-c]quinoline as a white powder.

reactant | N4-(4-chlorobutyl)quinoline-3,4-diamine | ˜35.75 mmol | ClCCCCNC1=C(C=NC2=CC=CC=C12)N | C13H16ClN3
reactant | triethyl orthopropionate | 42.9 mmol, 7.56 g | C(CC)(OCC)(OCC)OCC | C9H20O3
reactant | pyridine hydrochloride | 0.41 g | Cl.N1=CC=CC=C1
product | 1-(4-chlorobutyl)-2-ethyl-1H-imidazo[4,5-c]quinoline | 7.5 g | ClCCCCN1C(=NC=2C=NC=3C=CC=CC3C21)CC | C16H18ClN3
